US07713994B2
To a solution of 4-nitrocatechol (310 mg, 2.0 mmol) in methanol (20 mL) is added hydrazine (200 μL) and a catalytic amount of Raney-Nickel (50 mg). The reaction mixture is left to stir at ambient temperature for 16 hours. The solution is then filtered over celite to remove Raney-Nickel and the filtrate evaporated to dryness. The 3,4-dihydroxyaniline thus produced is used as such for the next reaction.

reactant | 4-nitrocatechol | 2.0 mmol, 310 mg | [N+](=O)([O-])C=1C=C(C(O)=CC1)O | C6H5NO4
reactant | hydrazine | 200 μL | NN | H4N2
solvent | methanol | 20 mL | CO | CH4O
catalyst | Raney-Nickel | 50 mg | [Ni] | Ni
product | 3,4-dihydroxyaniline | OC=1C=C(N)C=CC1O | C6H7NO2
